US06660753B2
Under an argon atmosphere, a mixture of 2-(2-pyridyl)-5-(3-iodophenyl)-1,3,4-oxadiazole (0.03 g, 0.08 mmol), zinc cyanide (0.01 g, 0.12 mmol), and Pd(PPh3)4 (9.1 mg, 0.01 mmol) in N,N-dimethylformamide (2ml) was heated at 80° C. for 2.5 hours. After cooling the reaction mixture was diluted with ethyl acetate and sequentially washed with water (3×50 mL) and brine (50 mL). The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Recrystallization of the crude product from 5% ethyl acetate in hexanes, afforded 5.8 mg (30%) of 2-(2-pyridyl)-5-(3-cyanophenyl)-1,3,4-oxadiazole.

reactant | 2-(2-pyridyl)-5-(3-iodophenyl)-1,3,4-oxadiazole | 0.08 mmol, 0.03 g | N1=C(C=CC=C1)C=1OC(=NN1)C1=CC(=CC=C1)I | C13H8IN3O
reactant | N,N-dimethylformamide | 2ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 0.12 mmol, 0.01 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.01 mmol, 9.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-pyridyl)-5-(3-cyanophenyl)-1,3,4-oxadiazole | 5.8 mg, 30% | N1=C(C=CC=C1)C=1OC(=NN1)C1=CC(=CC=C1)C#N | C14H8N4O
